US07265104B2
Following the procedure described for Example 1 (A), Step A, 2-[1-(3-benzyloxy-phenyl)-5-oxo-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide (Preparation 6) (129 mg, 0.219 mmol) was condensed with 1H-indole-3-carbaldehyde (70 mg, 0.48 mmol). Purification by medium pressure chromatography eluting with a solvent gradient (10% EtOAc in hexanes to 100% EtOAc) yielded 60 mg of 2-[1-(3-benzyloxy-phenyl)-4-(1H-indol-3-ylmethylene)-5-oxo-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide. 1H NMR (CD3OD) δ 8.13 (m, 1H), 7.64 (m, 2H), 7.23-7.48 (m, 13H), 7.13 (m, 3H), 6.93 (m, 2H), 4.94 (m, 2H), 4.85 (m, 1H), 4.63 (m, 1H), 4.20-4.40 (m, 1H), 3.96 (m, 1H), 3.85 (d, 1H), 0.90-1.05 (m, 6H); MS 716.5 (M+1), 714.6 (M−1)

reactant | 2-[1-(3-benzyloxy-phenyl)-5-oxo-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | 0.219 mmol, 129 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NN=C2CC(N(C3=C(N12)C=CC=C3)CC(=O)N(C=3C=NC(=CC3)OC)C(C)C)=O | C34H32N6O4
reactant | 1H-indole-3-carbaldehyde | 0.48 mmol, 70 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
product | 2-[1-(3-benzyloxy-phenyl)-4-(1H-indol-3-ylmethylene)-5-oxo-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | 60 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NN=C2C(C(N(C3=C(N12)C=CC=C3)CC(=O)N(C=3C=NC(=CC3)OC)C(C)C)=O)=CC3=CNC1=CC=CC=C31 | C43H37N7O4
